US06054470
A mixture of 4-benzyloxycarbonylamino-2-(4-methoxybenzyl)-5-methyl-3-pyridazinone (0.39 g, 1.0 mmol) and 10% Pd/C (0.10 g) in ethanol (40 mL) and ethyl acetate (5 mL) was hydrogenated at 45 psi in a Parr apparatus for 1.3 hours. The catalyst was removed by filtration and the solvents were evaporated to give 4-amino-2-(4-methoxybenzyl)-5-methyl-3-pyridazinone (0.23 g, 1.0 mmol, 910%).

reactant | 4-benzyloxycarbonylamino-2-(4-methoxybenzyl)-5-methyl-3-pyridazinone | 1.0 mmol, 0.39 g | C(C1=CC=CC=C1)OC(=O)NC=1C(N(N=CC1C)CC1=CC=C(C=C1)OC)=O | C21H21N3O4
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.10 g | [Pd] | Pd
product | 4-amino-2-(4-methoxybenzyl)-5-methyl-3-pyridazinone | 1.0 mmol, 0.23 g, 910% | NC=1C(N(N=CC1C)CC1=CC=C(C=C1)OC)=O | C13H15N3O2
